US07572820B2
1-{[5-(4-Methyl-1,2,3-thiadiazol-5-yl)-1,3,4-oxadiazol-2-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 35C from [5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid and 4-methyl-1,2,3-thiadiazole-5-carbohydrazide: MS (ES) m/z 391 (M+1).

reactant | [5-cyano-4-(trifluoromethyl)-1H-indol-1-yl]acetic acid | C(#N)C=1C(=C2C=CN(C2=CC1)CC(=O)O)C(F)(F)F | C12H7F3N2O2
reactant | 4-methyl-1,2,3-thiadiazole-5-carbohydrazide | CC=1N=NSC1C(=O)NN | C4H6N4OS
product | 1-{[5-(4-Methyl-1,2,3-thiadiazol-5-yl)-1,3,4-oxadiazol-2-yl]methyl}-4-(trifluoromethyl)-1H-indole-5-carbonitrile | CC=1N=NSC1C1=NN=C(O1)CN1C=CC2=C(C(=CC=C12)C#N)C(F)(F)F | C16H9F3N6OS
